US08067595B2
Synthesis of N-ethyl-N-methoxyethylbenzylamine (BnEA)
The synthesis of BnEA was carried out in a manner similar to that of BnEO (process 2) using N-ethylbenzylamine (15 mL, 0.101 mol), bromoethyl methyl ether (0.101×1.2 mol), and ethanol (100 mL) as a solvent. BnEA (9.17 g, 47.46 mmol, yield 47%) was obtained as a yellow-orange clear liquid. [Purification was carried out by medium pressure silica gel column chromatography (n-hexane:ethyl acetate=3:2).]

reactant | N-ethylbenzylamine | 0.101 mol, 15 mL | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | bromoethyl methyl ether | 1.2 mol | COCCBr | C3H7BrO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-ethyl-N-methoxyethylbenzylamine | yield 47% | C(C)N(CCOC)CC1=CC=CC=C1 | C12H19NO
